US04851419
(a) 2-[2-(2-Pyridyl)-phenyl thio]-1H-benzimidazole
2-(1H-Benzimidazol-2-yl thio)benzenamine (8.5 g) in dilute hydrochloric acid (680 ml) was cooled (0° to -5°) with stirring and sodium nitrite (2.68 g) in water (85 ml) was added dropwise, keeping the temperature below 0°. The resulting diazonium salt solution was stirred at 0° for 0.5 hours, then added portionwise to pyridine (800 ml) with stirring at 80° for 1 hour. The pyridine was distilled off, and replaced with 880 ammonia which was in turn distilled off. The residue was treated with water and extracted into dichloromethane, washed, dried, evaporated under reduced pressure and purified by flash column chromatography using dichloromethane:ethyl acetate, 9:2 as eluant to give 3.07 g of the sub-title product.

reactant | 2-(1H-Benzimidazol-2-yl thio)benzenamine | 8.5 g | N1C(=NC2=C1C=CC=C2)SC2=C(C=CC=C2)N | C13H11N3S
reactant | sodium nitrite | 2.68 g | N(=O)[O-].[Na+]
reactant | pyridine | 800 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 680 ml | Cl | ClH
solvent | water | 85 ml | O | H2O
product | 2-[2-(2-Pyridyl)-phenyl thio]-1H-benzimidazole | 3.07 g | N1=C(C=CC=C1)C1=C(C=CC=C1)SC1=NC2=C(N1)C=CC=C2 | C18H13N3S
